US07148226B2
2-(4-Bromo-2-fluoro-phenyl)-2-methyl-propan-1-ol
To a solution of 2-(4-Bromo-2-fluoro-phenyl)-2-methyl-propionaldehyde (1.37 g, 5.58 mmol) in MeOH (18 ml) at 0° C. was added NaBH4 (0.21 g, 5.58 mmol). After being stirred for 2 hours at 0° C., the mixture was allowed to warm to room temperature. The reaction mixture was diluted with water (20 ml) and extracted with ether (3×75 ml). The combined organic layers were dried over MgSO4. The solvent was removed, and the residue was purified by flash column chromatography (15–35% EtOAc in Hexane) to give the product (1.10 g, 80.0% yield). 1H NMR (CDCl3) δ: 1.23 (s, 1 H) 1.35 (s, 3 H) 1.35 (s, 3 H) 3.75 (d, J=1.26 Hz, 2 H) 7.17 (d, J=2.27 Hz, 1 H) 7.20 (d, J=3.03 Hz, 1 H) 7.22 (m, 1 H).

reactant | 2-(4-Bromo-2-fluoro-phenyl)-2-methyl-propionaldehyde | 5.58 mmol, 1.37 g | BrC1=CC(=C(C=C1)C(C=O)(C)C)F | C10H10BrFO
reactant | NaBH4 | 5.58 mmol, 0.21 g | [BH4-].[Na+]
solvent | MeOH | 18 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-(4-Bromo-2-fluoro-phenyl)-2-methyl-propan-1-ol | 1.10 g, 80.0% yield | BrC1=CC(=C(C=C1)C(CO)(C)C)F | C10H12BrFO
